US09034900B2
Step 1: 2-methyl-2,7-naphthyridin-1-one
Sodium hydride (2.9 g, 72.5 mmol, 60% in oil) was added in portions to 2H-2,7-naphthyridin-1-one (3.5 g, 24.0 mmol) in dry DMF (50 mL) at 0° C. After stirring at 0° C. for 30 min, MeI (17.0 g, 118.7 mmol) was added and the mixture was stirred for an additional 30 min. Saturated aqueous NH4Cl (250 mL) and ethyl acetate (100 mL) were added. Extractive work up with ethyl acetate and purification by silica gel chromatography (DCM:MeOH=100:1 to 10:1) gave the title compound (0.5 g, 13.1%) as a yellow solid. 1H NMR (CDCl3, 400 MHz) δ 9.54 (1H, s), 8.64-8.62 (1H, d, J=5.6 Hz), 7.27-7.26 (1H, d, J=5.2 Hz), 7.22-7.20 (1H, d, J=5.6 Hz), 6.37-6.35 (1H, d, J=7.2 Hz), 3.54 (3H, s).

reactant | Sodium hydride | 72.5 mmol, 2.9 g | [H-].[Na+]
reactant | 2H-2,7-naphthyridin-1-one | 24.0 mmol, 3.5 g | C1(NC=CC2=CC=NC=C12)=O | C8H6N2O
reactant | MeI | 118.7 mmol, 17.0 g | CI | CH3I
reactant | NH4Cl | 250 mL | [NH4+].[Cl-]
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
product | 2-methyl-2,7-naphthyridin-1-one | 0.5 g, 13.1% | CN1C(C2=CN=CC=C2C=C1)=O | C9H8N2O
